2182-07-17 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: NSTEMI/Flash PE/Afib with RVR
   24 Hour Events:
   Afib with RVR around 0030 with rate to the 130s, and hypotensive with
   Maps in  high 50s;
   Gave 5 mg bolus of dilt, maxed out dilt gtt to 20 mg/hr...hypotensive
   with maps in 50s, increased neo to 1.2...finally broke...started
   standing po dilt 60 mg TID
   A-line placed
   Neo gtt was stopped at 0230; Dilt gtt at 5 currently
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2182-7-16**] 10:41 PM
   Vancomycin - [**2182-7-17**] 12:37 AM
   Metronidazole - [**2182-7-17**] 02:08 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Diltiazem - 5 mg/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2182-7-16**] 07:32 PM
   Fentanyl - [**2182-7-16**] 07:45 PM
   Diltiazem - [**2182-7-17**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2182-7-17**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.8
   HR: 69 (60 - 137) bpm
   BP: 87/36(51) {87/36(51) - 126/48(74)} mmHg
   RR: 17 (11 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    339 mL
                                                                    583 mL
   PO:
             TF:
   IVF:
                                                                    339 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    400 mL
   Urine:
                                                                  1,340 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,001 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AC
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/56/99.[**Numeric Identifier 126**]/30/3
   Ve: 6.8 L/min
   PaO2 / FiO2: 198
   Physical Examination
   GENERAL: Intubated, sedated
   HEENT:  Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no pallor
   or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of difficult to estimate [**1-28**] habitus.
   CARDIAC: NSR, RR, normal S1, S2. No m/r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Course breath
   sounds bilaterally in anterior lung fields.
   ABDOMEN: Soft, obese, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. Left femoral line in place
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  DP 1+ PT 1+
   Left:  DP 1+ PT 1+
   Labs / Radiology
   209 K/uL
   9.7 g/dL
   192 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.7 mEq/L
   27 mg/dL
   102 mEq/L
   143 mEq/L
   29.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2182-7-16**]  08:58 PM
                             [**2182-7-17**]  01:22 AM
                             [**2182-7-17**]  01:55 AM
                             [**2182-7-17**]  05:13 AM
                                   proBNP
   WBC
   14.3
   [**Numeric Identifier 8933**]
   Hct
   35.1
   32.6
   29.5
   Plt
   288
   209
   Cr
   1.1
   TCO2
   33
   Glucose
   192
   Other labs: CK / CKMB / Troponin-T:64//0.14, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.5 mg/dL
   Lipid Panel: Pending; AST/ALT; Pending
   Sputum Gram Stain: oropharyngeal flora
   Blood Cx, Urine Cx, Sputum Cx: all pending
   CXR:
   The hila are prominent, with additional confluent perihilar opacities,
   as well as patchy opacity
   at the left base and peripherally in the left midlung. Findings may
   represent a combination of perihilar
   edema and adenopathy/chronic interstitial changes from patient's known
   sarcoid, but superimposed pneumonia cannot be excluded.
   CXR this AM pending
   Assessment and Plan
   72 yo female h/o DM, HLD, HTN, Afib with RVR, s/p pacemaker and sarcoid
   presents  with acute heart failure leading to flash pulmonary edema.
   Patient also with AFib with RVR causing hypotension. Also with mild
   troponin increase of 0.12 (peaked at 0.27 in OSH), ischemic changes on
   EKG (TWI) : Sent for cath and found 2 vessel disease, s/p BMS to LAD.
   .
   # CORONARIES: NSTEMI: found to have 2 vessel disease on cardiac cath.
   s/p BMS to the mid LAD. ? whether this was a primary coronary event or
   demand [**1-28**] RVR as pt. had acute heart failure yesterday and still has
   not significantly increased her troponin, would have expected large
   bump by now if infarct large enough to cause LV failure. EKG does
   appear to be c/w s/p anterior infarct.
   -Integrillin gtt until 18 hours post cath (stop at 1100)
   -Plavix 75 mg [**Hospital1 7**]
   - Start Aspirin desensitisation protocal
   - Simvistatin 80 mg daily
   - Start metroprolol low dose later today.
   -Hold ACE for now, given her hypotension and dye in cath
   - TTE in am to check for WMA
   .
   # PUMP: Noted to have EF of 60-70% on [**5-27**]. Current BNP elevated to
   [**Numeric Identifier 8933**].  Fluid overload possibly secondary afib with RVR; this is likely
   the etiology behind her flash pulmonary edema.
   -Will hold diuresis as patient is hypotensive and on Phenylephrine
   -Once stable, will consider diuresing
   -FU TTE today
   .
   # RHYTHM: Patient with h/o afib with RVR, presents to unit in afib with
   RVR and hemodynamically unstable.
   -Dilt gtt started, bolus of 20 mg with infusion of [**5-15**] mg/hr as
   tolerated maintain HR < 110;
   - Since patient has a DDD pacemaker, will give as much nodal agents as
   needed for RVR, as patient will be paced out of bradycardia.
   - Neo gtt to maintain MAP > 60
   - Start low dose metroprolol later today after ASA desensitization.
   - Monitor on telemetry
   - INR elevated to 2.3; continue home dose of coumadin as patient is at
   goal, but will hold heparin gtt.
   .
   # Respiratory Failure: Intubated s/p flash pulmonary edema in OSH;
   possibly secondary to Acute dCHF
   -intubated on AC; Will attempt PS today and ultimately wean from vent
   when HD stable; RISBI overnight was 29
   - Check ABG's in AM
   - Start Lasix 20 mg IV, FU I/Os adjust as needed.
   - CXR in AM
   -  Attempt extubation today.
   # Respiratory Acidosis with Metabolic Compensation: Patient h/o COPD on
   home oxygen secondary to sarcoidosis. Acid/Base disturbance likely
   secondary to COPD, as patient may be a CO2 retainer.
   -Continue to monitor with ABG's
   -Adjust major acid/base disturbances with ventilation manipulation
   .
   # Leukocytosis: Patient had wbc in OSH of 8.4 on [**7-15**], currently  24.2.
   Patient spiked to 101.1, and CXR shows new middle lobe infilitrate.
   Also, C.diff cannot be ruled out as pt. w/ h/o diarrhea and acutely
   high WBC.
   - BCX, UCx and sputum culture, and C. diff toxin pending
   -Will start empiric treatment of VAP since new infiltrate shown on CXR;
   will start 7 day course of vanc/cefepime: will need ID approval
   -Since white count is markedly elevated and patient has h/o diarrhea,
   cannot exclude C. diff. Will start empiric treatment with flaygl
   pending c. diff toxin results.
   .
   # Sarcoidosis: On home O2 3LNC; currently stable; patient intubated
   - Continue Prednisone 5 mg qAM and 2.5 mg qPM
   - H/o hypercalcemia -> will continue fosamax q weekly
   .
   # Diabetes type 2: Will hold metformin and glipizide for now
   -Start humulog ISS for more predictable control
   -FSBS qachs
   .
   # Dyslipidemia: Do not have recent lipid panel.
   -Will hold zetia
   -Will check lipid panel this AM
   -Start simvistatin 80 mg daily
   # HTN: patient currently hypotensive
   -Currently normotensive.
   # Hypothyroidism:
   -Continue Synthroid at 25 mcg daily
   # Depression:
   -Continue Paroxetine 10 mg daily
   # GERD:
   -Start H2 blocker (Famotidine) as PPI interacts with Plavix
   ICU Care
   Nutrition: NPO for now; if fails weaning today, consider tube feeds;
   if successful extubation, attempt po diet
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2182-7-16**] 07:06 PM left femoral
   20 Gauge - [**2182-7-17**] 12:50 AM
   Consider PICC line.
   Prophylaxis:
   DVT:  boots, therapeutic INR
   Stress ulcer:  Famotidine 20 mg daily
   VAP:  HOB 30 degrees
   Comments:
   Communication:  Comments:  Husband [**Name (NI) 135**] [**Name (NI) 2415**]: [**Telephone/Fax (1) 8934**] (health
   care proxy)
   Code status: Full code
   Disposition:  CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Rapid af leading to troponin elevation in setting of a tight distal lad
   lesion that was stented.  She has severe mulitiorgan sarcoidosis with
   muiltiple potential cardiac manifestation including heart block (at one
   time) requiring ddd pacer, atrial arrhythmias for which she was on
   sotalol for a while; even her cad could possibly be from sarcoid but
   obviously most likely from her usual risk factors of htn,
   hyperlipidemia, obesity, age, and diabetes.  I suspect that her atrial
   arrhythmias will be difficult to manage so we should get an eps
   consult.
   Physical Examination
   echo shows apical hk of the lv and apical akinesis of the rv with
   severe pulm htn (interestingly the rhc demonstrated only mild elevation
   of pulm vasc resistance which means that most of the blame for the pulm
   htn rests on diastolic dysfunction of the left ventricle)
   Medical Decision Making
   Since it is of paramount importance to maintain sinus rhythm (or at
   very least a well-controlled ventricular rate in af), and since she has
   lung disease possibly precluding the drug of choice (amiodarone), we
   will get an eps consult.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2182-7-17**]
   11:14 ------

2182-07-18 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Afib with RVR, Intubated
   24 Hour Events:
   - Patient had agitation and hypertension in the setting of switching
   her ventilator settings to pressure support.  Her breathing appeared
   uncomfortable and her ABG at that time showed 7.36/56/63.  She was
   switched back to assist control.
   - She was Lasix 20mg IV and urinated 250cc.  She was then given 40mg IV
   Lasix and urinated 300cc.  She then began to have hypotension and went
   into Afib with RVR.
   - She entered Afib with RVR at approximately 18:00 with ventricular
   rate 130-160
s.  She was given 10mg Dilt bolus x 2, followed by a Dilt
   gtt at 20mg/hr.  She had MAP
s in the 50
s-60
s and required
   neosynephrine to maintain her BP.  At 20:45, she entered a paced rhythm
   with heart block at a ventricular rate of 60.  At that time the Dilt
   drip was held, and her po Dilt was increased to 90mg po qid.  Her MAP
   fell to approx. 52, and she was given a 250 cc NS bolus x2.  One po
   dose of Dilt was held overnight [**1-28**] low blood pressures.  Gave another
   500cc this am for low BP and started stress dose steroids.  She is no
   longer requiring neosynephrine.
   - At approximately 07:00 today, she went back into Afib with
   ventricular rates in the 120
s-130
s.  Given 10mg IV bolus of Dilt and
   Dilt gtt started at 10mg/hr.
   - She has been febrile to 102.2 at 20:00 last evening.  Her blood
   cultures grew GPC in clusters ([**12-28**] aerobic bottles), drawn from her
   line.  Blood cultures and sputum cultures were resent.
   - ECHO (Prelim): (LVEF>55%). The right ventricular cavity is mildly
   dilated with focal hypokinesis of the apical free wall. The aortic root
   is mildly dilated at the sinus level. There is severe pulmonary artery
   systolic hypertension (TR gradient 61mmHg).
   - EP: Recommended rate control. If QTc improves could reconsider
   antiarrhythmics. Amio is not ideal given lung disease. In AM call
   Cardiologist ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2679**], [**Telephone/Fax (1) 8981**]) and Pulm (Dr. [**First Name8 (NamePattern2) 902**]  [**Last Name (NamePattern1) 8982**],
   [**Hospital3 **]) How do you feel about us starting amiodarone? Long QTc so
   limited medications.
   - Allergies updated on [**Name (NI) 2040**], Husband notes allergy to inhalants (unknown
   type) states patient's throat started closing up at outside hospital.
   She has a known allergy to terbutaline
   Allergies:
   Aspirin
   Unknown;
   Terbutaline
   Unknown;
   Talwin Nx (Oral) (Pentazocine Hcl/Naloxone Hcl)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Inhalants
   Wheezing;
   Last dose of Antibiotics:
   Vancomycin - [**2182-7-17**] 08:00 PM
   Cefipime - [**2182-7-17**] 10:11 PM
   Metronidazole - [**2182-7-18**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2182-7-17**] 02:30 PM
   Furosemide (Lasix) - [**2182-7-17**] 03:00 PM
   Fentanyl - [**2182-7-17**] 03:15 PM
   Diltiazem - [**2182-7-17**] 05:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-7-18**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.6
C (99.7
   HR: 76 (60 - 148) bpm
   BP: 109/41(60) {81/37(52) - 157/57(92)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 89-93% on FiO2 51%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.9 kg (admission): 93 kg
   Height: 68 Inch
             Total In:
                                                                  2,702 mL
                                                                  1,132 mL
   PO:
             TF:
                                                                     96 mL
                                                                    182 mL
   IVF:
                                                                  2,276 mL
                                                                    770 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    125 mL
   Urine:
                                                                  1,440 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,262 mL
                                                                  1,008 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 506 (450 - 506) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.40/52/83/29/5
   Ve: 8.1 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GENERAL: Intubated, sedated
   HEENT:  Sclera anicteric. Pupils reactive bilaterally but minimally,
   EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral mucosa.
   No xanthalesma.
   NECK: Supple with JVP of difficult to estimate [**1-28**] habitus.
   CARDIAC: NSR, RR, normal S1, S2. No m/r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse breath
   sounds bilaterally in anterior lung fields.
   ABDOMEN: Soft, obese, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. Left femoral line in place
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:  Right:  DP 1+ PT 1+, Left:  DP 1+ PT 1+
   Labs / Radiology
   191 K/uL
   8.3 g/dL
   262 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   40 mg/dL
   105 mEq/L
   141 mEq/L
   25.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2182-7-16**]  08:58 PM
                             [**2182-7-17**]  01:22 AM
                             [**2182-7-17**]  01:55 AM
                             [**2182-7-17**]  05:13 AM
                             [**2182-7-17**]  11:30 AM
                             [**2182-7-17**]  01:44 PM
                             [**2182-7-17**]  04:00 PM
                             [**2182-7-17**]  06:48 PM
                             [**2182-7-18**]  05:20 AM
                             [**2182-7-18**]  05:51 AM
   WBC
   14.3
   15.0
   8.7
   Hct
   35.1
   32.6
   29.5
   28.4
   25.1
   Plt
   288
   209
   212
   191
   Cr
   1.1
   1.1
   1.5
   TropT
   0.14
   0.11
   0.09
   TCO2
   33
   34
   33
   30
   33
   Glucose
   192
   218
   262
   Other labs: PT / PTT / INR:26.2/38.9/2.5, CK / CKMB /
   Troponin-T:63/4/0.09, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   Lipids: TC 157, Trigly 156, HDL 30, LDL 96
   CXR [**7-17**]: [**Month (only) 51**] be a slight improvement in the extent of interstitial and
   peribronchial opacification in the left mid lung, suggesting that there
   is a component of mild pulmonary edema. How much chronic interstitial
   abnormality exists, as well as much of the partially calcified abundant
   central adenopathy is chronic and whether there is also pulmonary
   consolidation would depend upon comparison to prior chest imaging. An
   ET tube is in standard placement, nasogastric tube passes below the
   diaphragm and out of view. Transvenous right atrial and right
   ventricular leads are unchanged in position. No pneumothorax.
   Echo ([**7-18**]): The left atrium is normal in size. No atrial septal defect
   is seen by 2D or color Doppler. Left ventricular wall thickness, cavity
   size, and global systolic function are normal (LVEF>55%). Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded (LV apex not clearly seen). There is no ventricular
   septal defect. The right ventricular cavity is mildly dilated with
   focal hypokinesis of the apical free wall. The aortic root is mildly
   dilated at the sinus level. The aortic valve leaflets (3) are mildly
   thickened but aortic stenosis is not present. Trace aortic
   regurgitation is seen. The mitral valve appears structurally normal
   with trivial mitral regurgitation. The tricuspid valve leaflets are
   mildly thickened. There is severe pulmonary artery systolic
   hypertension. There is an anterior space which most likely represents a
   fat pad.
   Sputum cx ([**7-16**] and [**7-17**]): Multiple organisms c/w oropharyngeal flora.
   Blood cx ([**7-16**]): GPC in pairs and clusters. 1 of 2 bottles.
   Blood cx ([**7-17**]): Pending
   Urine cx ([**7-16**]): No growth
   Assessment and Plan
   72 yo female h/o DM, HLD, HTN, Afib with RVR, s/p pacemaker and sarcoid
   presents with acute heart failure leading to flash pulmonary edema.
   Patient with multiple episodes of AFib with RVR and hypotension since
   admission, including yesterday evening. She was sent for cath and found
   to have 2 vessel disease, s/p BMS to LAD.  She now is intubated, on
   some sedation, and continues to have volatile blood pressure control
   and episodes of Afib with RVR.
   .
   # RHYTHM: Patient with continued episodes of Afib with RVR with
   hemodynamic instability.
   - Will d/c the dilt drip at this time and start metoprolol 100mg po
   TID, will also give 5mg IV lopressor bolus at this time
   - Since patient has a DDD pacemaker, will not hold back on nodal agents
   as needed for RVR, as patient will be paced out of bradycardia.
   - Monitor on telemetry
   - INR at goal of [**1-29**] today (INR=2.5), will continue home dose of
   coumadin
   - Will continue to rate control per EP
   - Contact outside cardiologist and pulmonologist for ?amiodarone
   # CORONARIES: NSTEMI: found to have 2 vessel disease on cardiac cath
   s/p BMS to the mid LAD. ? whether this was a primary coronary event or
   demand [**1-28**] RVR as pt. had acute heart failure yesterday and still has
   not significantly increased her troponin, would have expected large
   bump by now if infarct large enough to cause LV failure. EKG does
   appear to be c/w s/p anterior infarct.   TTE yesterday showed normal
   EF, focal hypokinesis of apical free wall of RV, and severe pulmonary
   systolic hypertension.
   - Integrillin gtt has now stopped
   - Completed ASA desensitization yesterday
   - Switched Plavix 75 mg to daily instead of [**Hospital1 7**]
   - Simvistatin 80 mg daily
   - Metoprolol to start today per above
   - Hold ACE for now, given her hypotension, dye in cath, and bump in
   creatinine
   .
   # PUMP: EF of >55% per TTE yesterday. Current BNP.  Fluid overload
   possibly secondary afib with RVR; this is likely the etiology behind
   her flash pulmonary edema.  She is likely still fluid overloaded, but
   has been hypotensive with MAPs in the 50
s overnight.
   - Will hold diuresis as patient is hypotensive and currently in Afib
   with RVR
   - Once stable, will consider diuresing again
   - Started on stress dose steroids in order to supplement BP given
   possibility of adrenal insufficiency
   .
   # Respiratory Failure: Intubated s/p flash pulmonary edema in OSH;
   possibly secondary to Acute dCHF and complicated by severe pulmonary
   hypertension
   - intubated on AC; can attempt PS again today and ultimately wean from
   vent when HD stable
   - Serial ABG's
   - CXR in AM
   -  Will avoid albuterol [**1-28**] terbutaline allergy
   .
   #Anemia: Continues to trend down. Unable to guaiac stool (no BM). At
   this time thought to be secondary to marrow suppression.
   - Trend HCT
   # Respiratory Acidosis with Metabolic Compensation: Patient h/o COPD on
   home oxygen secondary to sarcoidosis. Acid/Base disturbance likely
   secondary to COPD, as patient may be a CO2 retainer.
   - Continue to monitor with ABG's
   - Adjust major acid/base disturbances with ventilation manipulation
   .
   # Fever/Leukocytosis: Patient still febrile to 102.2 with resolution of
   her leukocytosis (WBC 8.7 this am).  Being treated with Vanc/Cefepime
   and now with positive blood cultures of GPC.  Urine cx neg, sputum
   showed oropharyngeal flora.
   - Continue Vanc/cefepime (Day [**2-2**])
   - Will stop flagyl at this time as concern for C Diff low
   - Antibiotics approval received for Vanc/Cefepime
   .
   # Acute Renal Failure: Patient with bump in creatinine today to 1.5
   (from 1.1 yesterday), likely prerenal etiology as consistently
   hypotensive overnight.  [**Month (only) 51**] also be related to dye given during cath,
   and possible septic shock.
   - Will calculate FeUrea to evaluated for prerenal etiology
   - Monitor creatinine daily
   - Continue to support BP for increased renal perfusion
   - Rate control her Afib to increased forward flow from heart
   # Sarcoidosis: On home O2 3LNC; currently stable; patient intubated
   - Switched to stress dose steroids
   - H/o hypercalcemia -> will continue fosamax q weekly
   .
   # Diabetes type 2: Will hold metformin and glipizide for now.
   Fingersticks 231-332, not well-controlled.
   -Start humulog ISS for more predictable control, will add lantus dose
   for basal insulin
   -FSBS qac and qhs
   .
   # Dyslipidemia: Lipid panel drawn yesterday (see above)
   - Holding zetia for now
   - On simvastatin 80 mg daily
   # Hypothyroidism:
   -Continue Synthroid at 25 mcg daily
   # Depression:
   -Continue Paroxetine 10 mg daily
   # GERD:
   -Start H2 blocker (Famotidine) as PPI interacts with Plavix
   ICU Care
   Nutrition: On tube feeds now
   Glycemic Control:  ISS
   Lines:  Multi Lumen - [**2182-7-16**] 07:06 PM left femoral, A-line, 20
   Gauge - [**2182-7-17**] 12:50 AM
   Pull Femoral line today.
   Consider PICC line.
   Prophylaxis:
   DVT:  Boots, therapeutic INR
   Stress ulcer:  Famotidine 20 mg daily
   VAP:  HOB 30 degrees
   Comments:
   Communication:  Comments:  Husband [**Name (NI) 135**] [**Name (NI) 2415**]: [**Telephone/Fax (1) 8934**] (health
   care proxy)
   Code status: Full code
   Disposition:  CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:  would switch to beta blocker for
   a-fib v-rate control
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2182-7-18**]
   15:06 ------